US07973012B2
To a suspension of 4-(benzyloxy)-5-bromo-2-methylbenzoic acid (16.6 g, 51.7 mmol) in chloroform (80 mL) were added oxalyl chloride (5 mL, 56.9 mmol) and N,N-dimethylformamide (6 drops), and the mixture was stirred for an hour at room temperature. And then the reaction solution was concentrated to obtain 4-(benzyloxy)-5-bromo-2-methylbenzoyl chloride. Then to a chloroform suspension (60 mL) of N,O-dimethylhydroxylamine hydrochloride (5.55 g, 56.9 mmol) and triethylamine (15 mL, 103 mmol) cooled in ice was added dropwise a chloroform solution (60 mL) of 4-(benzyloxy)-5-bromo-2-methylbenzoyl chloride, and the mixture was stirred for an hour at room temperature. To the reaction solution cooled in ice were added water and chloroform to separate an organic layer. The organic layer was washed with a saturated sodium bicarbonate aqueous solution and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure to obtain 4-(benzyloxy)-5-bromo-N-methoxy-N-methylbenzamide. To a tetrahydrofuran solution (150 mL) of the 4-(benzyloxy)-5-bromo-N-methoxy-N-methylbenzamide was added at −10° C. lithium aluminum hydride (1.96 g, 51.7 mmol), and the mixture was stirred for an hour at the same temperature. To the reaction solution were added 1 M hydrochloric acid, and then ethyl acetate to separate an organic layer. The organic layer was washed with 1 M hydrochloric acid, a saturated sodium bicarbonate aqueous solution and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure to obtain 4-(benzyloxy)-5-bromo-2-methylbenzaldehyde. To a toluene solution (120 mL) of the 4-(benzyloxy)-5-bromo-2-methylbenzaldehyde were added ethylene glycol (30 mL, 517 mmol) and p-toluenesulfonic acid monohydrate (0.50 g, 2.58 mmol), and heated to reflux for 1.5 hours with a Dean-Stark apparatus. To the reaction solution was added ethyl acetate to separate an organic layer. The organic layer was washed with water, a saturated sodium bicarbonate aqueous solution and brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure. Thus obtained residue was purified with silica gel column chromatography (hexane:ethyl acetate=5:1). In addition, the residue was further purified with NH type silica gel column chromatography (chloroform) to obtain the title compound (12.8 g, 71%, 3 steps) as a colorless powder.

reactant | 4-(benzyloxy)-5-bromo-N-methoxy-N-methylbenzamide | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N(C)OC)C=C1Br | C16H16BrNO3
reactant | lithium aluminum hydride | 51.7 mmol, 1.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 4-(benzyloxy)-5-bromo-2-methylbenzaldehyde | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1Br)C | C15H13BrO2
